US06355653B1
b) 4-(5-Amino-2-furan-2-yl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-N-phenyl-benzene-sulfonamide
The title compound, MS m/e (%): 430 (M—H−, 100), was prepared in accordance with the general method of example 1 from 3-benzenesulfonylmethyl-5-furan-2-yl-1H-[1,2,4]triazole and 4-(2-cyano-vinyl)-N-phenyl-benzenesulfonamide

reactant | 3-benzenesulfonylmethyl-5-furan-2-yl-1H-[1,2,4]triazole | C1(=CC=CC=C1)S(=O)(=O)CC1=NNC(=N1)C=1OC=CC1 | C13H11N3O3S
reactant | 4-(2-cyano-vinyl)-N-phenyl-benzenesulfonamide | C(#N)C=CC1=CC=C(C=C1)S(=O)(=O)NC1=CC=CC=C1 | C15H12N2O2S
product | 4-(5-Amino-2-furan-2-yl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-N-phenyl-benzene-sulfonamide | NC1=CC(=CC=2N1N=C(N2)C=2OC=CC2)C2=CC=C(C=C2)S(=O)(=O)NC2=CC=CC=C2 | C22H17N5O3S
